US06960579B1
3-(4-Methylpiperidin-1-yl)propylsulfonyl-2,3-dihydro-1H-indole Hydrochloride
By following the procedures of Example 2, but replacing the 3-chloropropanesulfonyl chloride in Step 1 with 2-chloroethanesulfonyl chloride and the 4-methylpiperidine in Step 2 with 3-methylpiperidine, the following compound was prepared. The 1H NMR spectrum and the mass spectrum for this compound were consistent with the assigned structure.

reactant | 3-chloropropanesulfonyl chloride | ClCCCS(=O)(=O)Cl | C3H6Cl2O2S
reactant | 2-chloroethanesulfonyl chloride | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
reactant | 4-methylpiperidine | CC1CCNCC1 | C6H13N
reactant | 3-methylpiperidine | CC1CNCCC1 | C6H13N
product | 3-(4-Methylpiperidin-1-yl)propylsulfonyl-2,3-dihydro-1H-indole Hydrochloride | Cl.CC1CCN(CC1)CCCS(=O)(=O)N1CCC2=CC=CC=C12 | InChI=1S/C17H26N2O2S.ClH/c1-15-7-11-18(12-8-15)10-4-14-22(20,21)19-13-9-16-5-2-3-6-17(16)19;/h2-3,5-6,15H,4,7-14H2,1H3;1H
